US04147873
A mixture of 1 gram of 3-acetyloxy-7-amino-8-oxo-5-thia-1-azabicyclo[4.2.0]oct-2-ene-2-carboxylic acid and 1 g of 4-benzyloxycarbonyl-2-vinylglutamic acid chloride wherein the free amino group is protected with tert-butoxycarbonyl in 50 ml of ethyl acetate is refluxed for 2 hours after which the solvent is removed leaving a residue which is treated with mild acid and chromatographed on silica gel using benzene-acetone as the eluant to give 7-[[2-amino-4-carboxy-2-vinylbutyryl]amino]-3-acetyloxymethyl-8-oxo-5-thia-1-azabicyclo[4.2.0]oct-2-ene-2-carboxylic acid.

reactant | 3-acetyloxy-7-amino-8-oxo-5-thia-1-azabicyclo[4.2.0]oct-2-ene-2-carboxylic acid | 1 gram | C(C)(=O)OC1=C(N2C(C(C2SC1)N)=O)C(=O)O | C9H10N2O5S
reactant | 4-benzyloxycarbonyl-2-vinylglutamic acid chloride | 1 g | C(C1=CC=CC=C1)OC(=O)C(C[C@](N)(C(=O)Cl)C=C)C(=O)Cl | C15H15Cl2NO4
reactant | ethyl acetate | 50 ml | C(C)(=O)OCC | C4H8O2
product | 7-[[2-amino-4-carboxy-2-vinylbutyryl]amino]-3-acetyloxymethyl-8-oxo-5-thia-1-azabicyclo[4.2.0]oct-2-ene-2-carboxylic acid | NC(C(=O)NC1C2SCC(=C(N2C1=O)C(=O)O)COC(C)=O)(CCC(=O)O)C=C | C17H21N3O8S
